US06187770B1
A solution of 2-methyl-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]oxazepine) (2.0 g, 7.5 mmol, prepared similarly as described in Neth. Appl. 6709520, Chem. Abs. 70, 115192 (1969)) in toluene (12 ml) was added drop wise to a stirred solution of ethyl chloroformate (1.26 g, 1.1 ml, 11.7 mmol) in toluene (8 ml) at 60° C. The mixture was heated at reflux temperature for 2 h. After cooling, the mixture was washed with a saturated solution of sodium bicarbonate (2×10 ml), water (10 ml), dried (MgSO4) and evaporated. The residue (2.5 g) was purified by column chromatography on silica gel (50 g) using benzene as eluent to give 1.95 g (80%) of 2-ethoxycarbonyl-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]oxazepine) as an oil.

reactant | 2-methyl-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]oxazepine) | CN1CC2N(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C17H18N2O
reactant | ethyl chloroformate | 11.7 mmol, 1.1 ml, 1.26 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxycarbonyl-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]oxazepine) | 1.95 g, 80% | CCOC(=O)C1NCCN2C3=C(OC4=C(C21)C=CC=C4)C=CC=C3 | C19H20N2O3
